* I31 LM63615-family architecture derivative. ORIGINAL behavioral approximation.
* No encrypted vendor content; no claimed match to the undisclosed TI compensator.
* All external L/C/R and feedback divider are supplied by the calling circuit.
.func clip(x,lo,hi) {min(max(x,lo),hi)}
.func pos(x) {(x+sqrt(x*x+1e-16))/2}
.model body_diode D(Is=1n N=1.3 Rs=.05 Cjo=100p)
* ENABLE is normalized computational state, NOT a replacement physical EN pin.
.subckt U151_DERIV VIN SW OUT FB ENABLE PARAMS: VREF=1 TSS=1.6m TDELAY=1m
+ TFPWM=8m KP=14.4 FZ=1000 FP=80000 TI=3u LNOM=15u
+ IPOS=1.7 INEG=.75 ETA=.8
* Time since valid input. Discharge when UVLO asserts.
Btime 0 age I={v(ENABLE)>.5 ? (v(age)<1 ? 1 : 0) : -v(age)/1u}
Cage age 0 1 IC=0
Rage age 0 1e12
Bactive active 0 V={v(ENABLE)>.5 && v(age)>TDELAY ? 1 : 0}
Bref ref 0 V={VREF*clip((v(age)-TDELAY)/TSS,0,1)}
* FPWM negative current is NOT enabled during the documented startup interval.
Bneg neg 0 V={v(age)>TFPWM ? INEG : 0}
* Type-II outer loop, explicitly uncertain coefficients. Integrator back calculation
* acts only at current saturation; it is not an output-voltage clamp.
Breq req 0 V={KP*(v(ref)-v(FB))+v(integral)}
Bcmd cmd 0 V={v(active)>.5 ? min(max(v(req),-v(neg)),IPOS) : 0}
Bint 0 integral I={v(active)>.5 ? 6.28318530718*FZ*KP*(v(ref)-v(FB))+100000*(v(cmd)-v(req)) : -v(integral)/10u}
Cint integral 0 1 IC=0
Rint integral 0 1e12
* Finite outer high-frequency pole and finite inner current response.
Rpole cmd command 1
Cpole command 0 {1/(6.28318530718*FP)} IC=0
Bdrive drive 0 V={clip(v(OUT)+(LNOM/TI)*(v(command)-i(Vsense)),0,max(v(VIN),0))}
* Smooth control switch, disabled high impedance plus explicit diode paths.
Ractivate active active_f 1k
Cactivate active_f 0 100p IC=0
Bbridge drive sense I={v(drive,sense)*(1e-12+clip(v(active_f),0,1)/.005)}
Vsense sense SW 0
* Preserve signed power. Regenerative energy returns to VIN, unlike the old proxy.
* Converter losses are assumed, not inferred from this reduced model.
Binput VIN 0 I={v(active)>.5 ? (pos(v(drive)*i(Vsense))/ETA-ETA*pos(-v(drive)*i(Vsense)))/max(v(VIN),.5) : 0}
Dlo 0 SW body_diode
Dhi SW VIN body_diode
* Documented approximate output discharge when disabled; actual discharge is not
* a precision current clamp. Test the real hardware for power-down/backfeed.
Bdis SW 0 I={v(active)<.5 ? max(v(SW),0)/2500 : 0}
.ends U151_DERIV
